US07307073B2
To 2-chlorobenzoic acid (10 g; 63.9 mmol) in dimethylformamide (100 ml) under nitrogen was added carbonyldiimidazole (10.9 g; 67.1 mmol) and the solution stirred for 1 h at room temperature. (S)-(+)-2-Pyrrolidinemethanol (7.56 ml, 76.6 mmol) was added and the mixture stirred at 40° C. for 18 h. The solvent was removed under reduced pressure and the crude product purified by chromatography on silica (eluting with 50% to 75% ethyl acetate in heptane) to afford (S)-1-(2-chlorobenzoyl)-2-pyrrolidinemethanol (10.2 g), which was used directly in the next step.

reactant | 2-chlorobenzoic acid | 63.9 mmol, 10 g | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | carbonyldiimidazole | 67.1 mmol, 10.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-(+)-2-Pyrrolidinemethanol | 76.6 mmol, 7.56 ml | N1[C@@H](CCC1)CO | C5H11NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (S)-1-(2-chlorobenzoyl)-2-pyrrolidinemethanol | 10.2 g | ClC1=C(C(=O)N2[C@@H](CCC2)CO)C=CC=C1 | C12H14ClNO2
